US08729102B2
A) 6-(cyclopropylmethoxy)-3-iodo-2-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-2H-indazole
To a solution of 6-(cyclopropylmethoxy)-2-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-2H-indazole (803 mg) in THF (6 mL) was added dropwise a THF solution (1.11 M, 3.3 mL) of lithiumdiisopropylamide at −78° C. under an argon atmosphere, and the mixture was stirred at 0° C. for 2 hr. To the reaction mixture was added a solution of iodine (933 mg) in THF (3 mL), and the mixture was stirred at 0° C. for 1 hr. To the reaction mixture was added saturated aqueous sodium thiosulfate solution, and the mixture was extracted twice with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained crystals were recrystallized from methanol to give the title compound as colorless crystals (782 mg).

reactant | 6-(cyclopropylmethoxy)-2-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-2H-indazole | 803 mg | C1(CC1)COC=1C=CC2=CN(N=C2C1)C1=CC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C26H36N2O2Si
reactant | lithiumdiisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | iodine | 933 mg | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 1.11 M, 3.3 mL | C1CCOC1 | C4H8O
product | 6-(cyclopropylmethoxy)-3-iodo-2-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-2H-indazole | 782 mg | C1(CC1)COC=1C=CC2=C(N(N=C2C1)C1=CC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C)I | C26H35IN2O2Si
